US07897766B2
1H-Indole-6-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and indole-6-carboxylic acid (Lancaster) according to methods A and C; yield 59 mg, 0.17 mmol (48%): 1H NMR (300 MHz, methanol-d4) δ 2.12-2.30 (m, 6H), 2.49 (s, 2H), 3.49 (d, J=12 Hz, 2H), 3.56 (s, 2H), 3.85 (d, J=13 Hz, 2H), 4.29 (s, 1H), 7.41 (d, J=3 Hz, 1H), 7.55 (dd, J=8, 2 Hz, 1H), 7.62 (d, J=12 Hz, 1H), 7.94-8.04 (m, 1H), 8.22 (d, J=5 Hz, 1H); MS (DCI/NH3) m/z 296 (M+H)+; Anal. C18H21N3O.HCl.0.75H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | NH3 | N | H3N
product | 1H-Indole-6-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C2=CC=C3C=CNC3=C2 | InChI=1S/C18H21N3O.ClH/c22-18(13-2-1-12-3-4-19-16(12)7-13)20-17-14-5-11-6-15(17)10-21(8-11)9-14;/h1-4,7,11,14-15,17,19H,5-6,8-10H2,(H,20,22);1H/t11?,14?,15?,17-;
